US04172198
In a similar manner to that of Example 1-4), 3-mercapto-5-hydroxy-1,2,4-triazine-6-carbonyl chloride, which was prepared from 3-mercapto-5-hydroxy-1,2,4-triazine-6-carboxylic acid (1.73 g), triethylamine (1.0 g), dimethyllformamide (30 ml) and thionyl chloride (1.19 g), was treated with a mixture of 7-(D-2-phenylglycinamido)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (4.0 g) and bis(trimethylsilyl) acetamide (6.4 g) in methylene chloride (40 ml). Thus obtained reaction mixture was worked up in a similar manner to that of Example 1--1) to give power (870 mg) of 7-[D-2-(3-mercapto-5-hydroxy-1,2,4-triazine-6-carboxamido)-2-phenylacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, mp 175° to 179° C. (dec).

reactant | 3-mercapto-5-hydroxy-1,2,4-triazine-6-carboxylic acid | 1.73 g | SC=1N=NC(=C(N1)O)C(=O)O | C4H3N3O3S
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 1.19 g | S(=O)(Cl)Cl | Cl2OS
reactant | bis(trimethylsilyl) acetamide | 6.4 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-mercapto-5-hydroxy-1,2,4-triazine-6-carbonyl chloride | SC=1N=NC(=C(N1)O)C(=O)Cl | C4H2ClN3O2S
